US05773439
a) N-(2,5-Dimethoxytetrahydrofuran-3-yl)methyl-N'-(4-nitrophenyl)urea
25.1 g (0.15 mol) of 4-nitrophenylurea were dissolved in 150 ml of methylene chloride. The solution was filtered and then 27.0 g (0.17 mol) of 3-aminomethyl-2,5-dimethoxytetrahydrofuran dissolved in 150 ml of methylene chloride were added dropwise at 0° C. The mixture was stirred at room temperature for 1 h and the resulting precipitate was filtered off with suction. 45 g (91%) of the product were obtained. Melting point 172°-174° C.

reactant | 4-nitrophenylurea | 0.15 mol, 25.1 g | [N+](=O)([O-])C1=CC=C(C=C1)NC(=O)N | C7H7N3O3
reactant | 3-aminomethyl-2,5-dimethoxytetrahydrofuran | 0.17 mol, 27.0 g | NCC1C(OC(C1)OC)OC | C7H15NO3
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | N-(2,5-Dimethoxytetrahydrofuran-3-yl)methyl-N'-(4-nitrophenyl)urea | 45 g, 91% | COC1OC(CC1CNC(=O)NC1=CC=C(C=C1)[N+](=O)[O-])OC | C14H19N3O6
